US05559111
d) 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-(3-benzyloxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one
1.3 ml of a 0.9M solution of butyllithium in hexane are slowly added dropwise to a solution, stirred at -75° C., of 500 mg of 4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-bromobenzene in 2 ml of tetrahydrofuran. The reaction mixture is stirred for 20 minutes at -75° C., and then a suspension of magnesium bromide, freshly prepared from 44.5 mg of magnesium powder and 0.158 ml of 1,2-dibromoethane in 3 ml of tetrahydrofuran at room temperature, is added dropwise. The reaction mixture is stirred for a further 30 minutes at -75° C., and then a solution of 172 mg of 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxo-butyl]-tetrahydrofuran-2-one in 2 ml of tetrahydrofuran is added dropwise. The mixture is again stirred for 30 minutes at -75° C., and then 1.2 ml of saturated ammonium chloride solution are added dropwise at the same temperature. The reaction mixture is brought to room temperature and is then extracted three times with ethyl acetate. The organic phases are washed with water (2x) and saturated sodium chloride solution (1x), dried over magnesium sulfate, combined and concentrated by evaporation, and the residue is purified by means of FC (2×30 g of silica gel, hexane/ethyl acetate=6:2), yielding the title compound: Rf (hexane/ethyl acetate=2:1)=0.23; HPLC Rt =20.27 and 21.07 minutes (diastereoisomeric mixture); FAB-MS M+ =611.

reactant | butyllithium | C(CCC)[Li]
reactant | 4-(3-benzyloxypropyloxy)-3-(3-methoxypropyloxy)-bromobenzene | 500 mg | C(C1=CC=CC=C1)OCCCOC1=C(C=C(C=C1)Br)OCCCOC | C20H25BrO4
reactant | magnesium bromide | [Br-].[Mg+2].[Br-]
reactant | magnesium | 44.5 mg | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.158 ml | BrCCBr | C2H4Br2
reactant | 3(S)-isopropyl-5(S)-[1(S)-azido-3(S)-isopropyl-4-oxo-butyl]-tetrahydrofuran-2-one | 172 mg | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C=O)C(C)C)N=[N+]=[N-])=O | C14H23N3O3
reactant | ammonium chloride | 1.2 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3(S)-Isopropyl-5(S)-{1(S)-azido-3(S)-isopropyl-4(R,S)-hydroxy-4-[4-(3-benzyloxy-propyloxy)-3-(3-methoxypropyloxy)-phenyl]-butyl}-tetrahydrofuran-2-one | C(C)(C)[C@H]1C(O[C@@H](C1)[C@H](C[C@H](C(C1=CC(=C(C=C1)OCCCOCC1=CC=CC=C1)OCCCOC)O)C(C)C)N=[N+]=[N-])=O | C34H49N3O7
